US08114865B2
Preparation of N-(5-benzenesulfonyl-1H-indazol-3-yl)-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide [(I), R1=R2=R3=H, Ar=4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-phenyl, R=phenyl], cpd. 10
2-Amino-N-(5-benzenesulfonyl-1H-indazol-3-yl)-4-(4-methyl-piperazin-1-yl)-benzamide (245 mg, 0.5 mmol) was dissolved in dichloromethane (5 mL) and trifluoroacetic acid (0.77 mL, 10 mmol), treated first with tetrahydro-pyran-4-one (0.055 mL, 0.6 mmol) and then with tetramethylammonium triacetoxyborohydride (197 mg, 0.75 mmol). The reaction was stirred at room temperature overnight then additional ketone (0.055 mL, 0.6 mmol) and hydride (2 portions: 197 mg first and 50 mg after a couple of hours) were added. After additional stirring overnight the volatiles were removed under reduced pressure. Dichloromethane was added and the organic phase was washed with aqueous sodium hydrogen carbonate, dried over sodium sulfate and evaporated. The crude product was purified by flash chromatography over silica gel (eluent: dichloromethane/methanol/33% NH4OH in 95:5:1 ratio) affording 186 mg of product still containing some impurities. Further purification by preparative HPLC (basic method) gave 80 mg of title compound.

reactant | 2-Amino-N-(5-benzenesulfonyl-1H-indazol-3-yl)-4-(4-methyl-piperazin-1-yl)-benzamide | 0.5 mmol, 245 mg | NC1=C(C(=O)NC2=NNC3=CC=C(C=C23)S(=O)(=O)C2=CC=CC=C2)C=CC(=C1)N1CCN(CC1)C | C25H26N6O3S
reactant | trifluoroacetic acid | 10 mmol, 0.77 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetrahydro-pyran-4-one | 0.6 mmol, 0.055 mL | O1CCC(CC1)=O | C5H8O2
reactant | tetramethylammonium triacetoxyborohydride | 0.75 mmol, 197 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | hydride | 197 mg | [H-]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(5-benzenesulfonyl-1H-indazol-3-yl)-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 186 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C(=NNC2=CC1)NC(C1=C(C=C(C=C1)N1CCN(CC1)C)NC1CCOCC1)=O | C30H34N6O4S
